US08471005B2
Into a 30 mL vial, 5-Bromo-2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (0.14 g, 0.00034 mol), 4-(4-Methyl-piperazin-1-yl)-phenylamine (0.194 g, 0.00101 mol), and N-Methylpyrrolidinone (0.22 mL, 0.0023 mol) were added. The mixture was heated at 150° C. for 3 hours. The mixture was purified via ISCO column chromatography with DCM and MeOH as eluant (0 to 15% methanol). The collected fractions afforded [5-Bromo-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine as a yellow solid (80 mg, 44%). MP 265-266° C. LCMS (E/I+) 543.11 (M+H). NMR 1H (DSMO-d6)-9.49 (s, 1H), 8.93 (s, 1H), 8.45 (d, 2H, J=8.56 Hz), 8.03 (d, 2H, J=8.60 Hz), 7.55 (d, 2H, J=9.01 Hz), 7.35 (s, 1H), 6.96 (d, 2H, J=9.08 Hz), 3.39 (s, 3H), 3.10 (t, 4H, J=5.00 Hz), 2.47 (t, 4H, J=5.13 Hz), 2.23 (s, 3H).

reactant | 5-Bromo-2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.00034 mol, 0.14 g | BrC=1C=C(N2N=C(N=CC21)S(=O)C)C2=CC=C(C=C2)S(=O)(=O)C | C14H12BrN3O3S2
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.00101 mol, 0.194 g | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | N-Methylpyrrolidinone | 0.0023 mol, 0.22 mL | CN1C(CCC1)=O | C5H9NO
product | [5-Bromo-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 80 mg, 44% | BrC=1C=C(N2N=C(N=CC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C2=CC=C(C=C2)S(=O)(=O)C | C24H25BrN6O2S
